US08957069B2
7-(methoxymethoxy)-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one
Potassium carbonate (1.23 g, 8.92 mmol) and chloromethylmethylether (539 mg, 6.69 mmol) were sequentially added to a suspension of DMF (20 mL) containing 7-hydroxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (920 mg, 4.46 mmol) synthesized in Reference Example 69 at 0° C. The reaction solution was warmed to room temperature and stirred for 15 hours. The resulting mixture was poured into saturated sodium bicarbonate water, and extraction was performed using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5 to 85/15) to give 920 mg of the title compound (yield: 82%).

reactant | Potassium carbonate | 8.92 mmol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethylmethylether | 6.69 mmol, 539 mg | ClCOC | C2H5ClO
reactant | 7-hydroxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 4.46 mmol, 920 mg | OC1=C(C=C(C=2C(C(OC21)(C)C)=O)C)C | C12H14O3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-(methoxymethoxy)-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 920 mg, yield: 82% | COCOC1=C(C=C(C=2C(C(OC21)(C)C)=O)C)C | C14H18O4
